US04927818
To a solution of benzhydryl 7β-(2-hydroxybenzylideneamino)-3-(3-formamido-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate iodide (170 g) in methylene chloride and formic acid was added 35% hydrochloric acid (24.65 g). The mixture was stirred for 3 hours at 25~30° C. and added dropwise into the mixture of acetone (1700 ml) and ethyl acetate (3400 ml). The resulting precipitate was collected by filtration and dried in vacuo to give 7β-amino-3-(3-formamido-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate hydrochloride (86.7 g).

reactant | benzhydryl 7β-(2-hydroxybenzylideneamino)-3-(3-formamido-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate iodide | 170 g | [I-].OC1=C(C=N[C@H]2[C@@H]3N(C(=C(CS3)C[N+]=3N(C(=CC3)NC=O)C)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C2=O)C=CC=C1
reactant | hydrochloric acid | 24.65 g | Cl | ClH
reactant | acetone | 1700 ml | CC(=O)C | C3H6O
reactant | ethyl acetate | 3400 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | formic acid | C(=O)O | CH2O2
product | 7β-amino-3-(3-formamido-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate hydrochloride | 86.7 g | Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)NC=O)C)C(=O)[O-])C1=O | InChI=1S/C13H15N5O4S.ClH/c1-16-8(15-6-19)2-3-17(16)4-7-5-23-12-9(14)11(20)18(12)10(7)13(21)22;/h2-3,6,9,12H,4-5,14H2,1H3,(H,21,22);1H/t9-,12-;/m1./s1
